US09163021B2
(5-amino-6-methoxypyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone
To a solution of di-tert-butyl {5-[(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)carbonyl]-2-methoxypyridin-3-yl}imidodicarbonate (Preparation 32, 250 mg, 0.5 mmol) in DCM (2.5 mL) at 0° C. was added TFA (0.75 mL) dropwise and the reaction stirred warming to room temperature for 5 hours. The reaction was basified by the addition of saturated aqueous NaHCO3 solution and extracted into DCM (3×30 mL). The organic layers were combined, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 5% MeOH in DCM to afford the title compound.

reactant | di-tert-butyl {5-[(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)carbonyl]-2-methoxypyridin-3-yl}imidodicarbonate | 0.5 mmol, 250 mg | C(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=C(C(=NC2)OC)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H34N4O6
reactant | TFA | 0.75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (5-amino-6-methoxypyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | NC=1C=C(C=NC1OC)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C17H18N4O2
